US07285563B2
2-tert-Butyl-5-cyanopyridine
To a mixture of 3-cyanopyridine (10 g, 96 mmol), trimethylacetic acid (9.8 g, 96 mmol) and silver nitrate (1.63 g, 9.6 mmol) in 10% aqueous sulfuric acid (100 ml) at 70° C. was added dropwise a solution of ammonium peroxodisulfate (21.9 g, 96 mmol) in water (120 ml). After complete addition the mixture was stirred at 70° C. for 2 hours. The mixture was cooled and basified by the addition of 33% aqueous NH4OH, and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with brine (100 ml), dried (Na2SO4) and evaporated to give the title compound (15.6 g, 100%).

reactant | 3-cyanopyridine | 96 mmol, 10 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | trimethylacetic acid | 96 mmol, 9.8 g | CC(C(=O)O)(C)C | C5H10O2
reactant | ammonium peroxodisulfate | 96 mmol, 21.9 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | NH4OH | [NH4+].[OH-]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 120 ml | O | H2O
catalyst | silver nitrate | 9.6 mmol, 1.63 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-tert-Butyl-5-cyanopyridine | 15.6 g, 100% | C(C)(C)(C)C1=NC=C(C=C1)C#N | C10H12N2
